US08080655B2
(R)-Mandelic acid (10 g, 65.7 mmol) was dissolved in toluene (20 mL) at which point pivaloyl chloride (10.2 mL, 82.9 mmol) was added. This mixture was stirred at 60° C. for 3 hours. After cooling the reaction mixture to 30° C., toluene (10 mL), N,N-dimethylformamide (0.3 mL) and thionyl chloride (10 mL) were added. The reaction mixture was stirred at 35° C. for 2 hours and then at 50° C. for 4 hours. Then the mixture was evaporated to dryness to furnish 14.5 g (R)-2-chloro-2-oxo-1-phenylethyl pivalate as a yellow oil.

reactant | (R)-Mandelic acid | 65.7 mmol, 10 g | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | pivaloyl chloride | 82.9 mmol, 10.2 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-2-chloro-2-oxo-1-phenylethyl pivalate | 14.5 g | C(C(C)(C)C)(=O)O[C@@H](C(=O)Cl)C1=CC=CC=C1 | C13H15ClO3
